US04970207
To a solution of (3R)-1,3-dihydro-1-(1-trityl-4-imidazolyl)methyl -3-amino-5-(2-fluorophenyl)-2H-1,4-benzodiazepine-2-one (0.81 g), indole-2-carboxylic acid (0.23 g), N-hydroxybenzotriazole (0.19 g) in N,N-dimethylformamide (8 ml) were added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.27 g) and triethylamine (0.14 g) under stirring at ambient temperature. The mixture was stirred for 4 hours at ambient temperature. To the reaction mixture were added ethyl acetate and water under stirring. The mixture was adjusted to pH 8 with an aqueous sodium bicarbonate. The organic layer was separated and the aqueous layer was extracted with ethyl acetate. The separated organic layer and the extract were combined, washed with water twice and dried over magnesium sulfate. The solvent was removed under reduced pressure to give (3R)-1,3-dihydro-1-(1-trityl-4-imidazolyl)methyl-3-(2-indolylcarbonylamino) -5-(2-fluorophenyl)-2H-1,4-benzodiazepine-2-one (1.0 g).

reactant | (3R)-1,3-dihydro-1-(1-trityl-4-imidazolyl)methyl -3-amino-5-(2-fluorophenyl)-2H-1,4-benzodiazepine-2-one | 0.81 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=NC(=C1)CN1C([C@@H](N=C(C2=C1C=CC=C2)C2=C(C=CC=C2)F)N)=O | C38H30FN5O
reactant | indole-2-carboxylic acid | 0.23 g | N1C(=CC2=CC=CC=C12)C(=O)O | C9H7NO2
reactant | N-hydroxybenzotriazole | 0.19 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.27 g | Cl.C(C)N=C=NCCCN(C)C
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 0.14 g | C(C)N(CC)CC | C6H15N
product | (3R)-1,3-dihydro-1-(1-trityl-4-imidazolyl)methyl-3-(2-indolylcarbonylamino) -5-(2-fluorophenyl)-2H-1,4-benzodiazepine-2-one | 1.0 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=NC(=C1)CN1C([C@@H](N=C(C2=C1C=CC=C2)C2=C(C=CC=C2)F)NC(=O)C=2NC1=CC=CC=C1C2)=O | C47H35FN6O2
